US05026859
PREPARATION OF 5-(1,3-DIOXOLAN-2-YL)-2,3-PYRIDINEDICARBOXYLIC ACID
5-(1,3-Dioxolan-2-yl)-2,3-pyridinedicarboxylic acid, dimethyl ester (2.86 g, 0.011 mol) in methanol is added dropwise to a mixture of potassium hydroxide (1.26 g, 0.022 mol) and methanol. The reaction mixture is heated for 3 hours and 30 minutes at about 62° C., cooled to room temperature, acidified to pH 1 with concentrated hydrochloric acid, filtered through diatomaceous earth and the filtrate is concentrated in vacuo to yield the title compound as a pale yellow powder (2.86 g, 100%), identified by IR and NMR spectral analyses.

reactant | 5-(1,3-Dioxolan-2-yl)-2,3-pyridinedicarboxylic acid, dimethyl ester | 0.011 mol, 2.86 g | O1C(OCC1)C=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C12H13NO6
reactant | potassium hydroxide | 0.022 mol, 1.26 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 5-(1,3-DIOXOLAN-2-YL)-2,3-PYRIDINEDICARBOXYLIC ACID | 2.86 g, 100% | O1C(OCC1)C=1C=C(C(=NC1)C(=O)O)C(=O)O | C10H9NO6
